2113-07-02 07:57:00 Physician Attending Progress Note
Chief Complaint:  blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  64M ? EtOH cirrhosis
 3 day h/o BRBPR and altered MS
 in [**Hospital1 2816**]
   ER Hct 10, SBP 90
s, HR 80
s. Given PRBC
s and lactulose.
   In our ER Hct 16, BP stable.
   Also apparently had Hematemesis at home according to girlfriend.
   [**Name (NI) **] received a total of 5 units and 2 U FFP thus far.
   Seen by GI and octreotide and protonix gtt started. NG lavage negative.
   Still passing bloody stool.
   24 Hour Events:
 MULTI LUMEN - START [**2113-7-2**] 02:40 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Aortic Valve replacement [**2112**]
 porcine
   AICD [**2111**]
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 71 (67 - 80) bpm
   BP: 136/61(80) {100/42(55) - 136/63(80)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.3 kg (admission): 114.3 kg
           Total In:
           4,953 mL
   PO:
           TF:
   IVF:
   1,068 mL
   Blood products:
   1,585 mL
   Total out:
                                                                      0 mL
                                                                    210 mL
   Urine:
   85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,743 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ////
   Physical Examination
   Awake, thinks he
s in [**Hospital3 2312**] Hosp
   No distress
   Neck supple
   Lungs decreased BS
s left base
   Hrt sem
   Abd benign
   Extreme no edema
   Labs / Radiology
   7.6 g/dL
   153 K/uL
   3.2
   94
   21.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2113-7-2**]  06:33 AM
   WBC
   9.8
   Hct
   21.3
   Plt
   153
   Other labs: PT / PTT / INR:17.4/27.5/1.6
   CXR effusion and atelectasis left base
   Head CT negative
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 creatinine down a
   bit with volume resuscitation, follow, gather outside records to
   establish baseline
   ? cirrhosis, coagulopathy
 continue supportive care, vitamin K,
   prophylactic CTX, RUQ u/s
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 hold off on lactulose for now,
   improved this morning, likely related to liver disease
 GASTROINTESTINAL BLEED
 unclear if upper versus lower, access OK
   though needs new site. To have EGD first this AM.
   EKG changes
 diffuse, follow cardiac enzymes
   CXR abnormalities
 follow O2 needs, suspect chronic changes from
   cardiac surgery, watch for signs of pna
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-7-2**] 02:40 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:    41

2113-07-03 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2113-7-2**] 12:00 PM
 MULTI LUMEN - STOP [**2113-7-2**] 05:30 PM
   - EGD - one cord grade 1 varices. portal gastropathy, all stable
   without active bleeding.
   - PIV x3, CVL from OSH pulled with small hematoma formation.
   - PM cardiac biomarkers. TnT 0.27, MBI 8.3. Transfusion threshold
   increased to 28. Hct 21.3 -> 23.3 -> 21.6. Transfused 3 units PRBCs.
   ECG - NA, IVCD, RBBB, isolated STE in III. Downsloping >2mm STD in
   V2-V6. Unchanged from admission ECG.
   - Per GI, started prep for [**Last Name (un) **] yesterday afternoon.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-7-2**] 09:15 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2113-7-2**] 12:00 PM
   Fentanyl - [**2113-7-2**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-3**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 88 (58 - 88) bpm
   BP: 95/49(60) {94/45(48) - 133/84(87)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.3 kg (admission): 114.3 kg
           Total In:
                                                                  7,451 mL
                                                                  1,294 mL
   PO:
                                                                    900 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,621 mL
                                                                    214 mL
   Blood products:
                                                                  2,630 mL
                                                                    480 mL
   Total out:
                                                                  1,410 mL
                                                                  1,160 mL
   Urine:
                                                                  1,285 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,041 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General: NAD
   HEENT: Sclerae anicteric. MMM
   Lungs: CTAB
   CV: Nl S1+S2, III/VI systolic murmur throughout precordium loudest at
   base.
   Abdomen: S/NT/ND +bs
   Ext: 2+ pulses, no c/c/e
   Neuro: no asterixis, oriented x1
   Labs / Radiology
   111 K/uL
   9.5 g/dL
   165 mg/dL
   2.4 mg/dL
   20 mEq/L
   3.5 mEq/L
   78 mg/dL
   114 mEq/L
   147 mEq/L
   26.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2113-7-2**]  06:33 AM
                             [**2113-7-2**]  11:38 AM
                             [**2113-7-2**]  05:44 PM
                             [**2113-7-3**]  05:44 AM
   WBC
   9.8
   8.1
   Hct
   21.3
   23.3
   21.6
   26.2
   Plt
   153
   111
   Cr
   3.3
   2.4
   TropT
   0.27
   0.32
   Glucose
   162
   165
   Other labs: PT / PTT / INR:15.2/29.5/1.3, CK / CKMB /
   Troponin-T:118/8/0.32, ALT / AST:[**12-22**], Alk Phos / T Bili:102/5.1,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7904**] is a 64 year old male with cirrhosis transferred from [**Hospital 2653**]
   Hospital with GI bleed and altered mental status.
   # GI bleed: Patient reports maroon stools x3 days with a hct of 10 at
   OSH.  Has now received 9 units PRBC (2 OSH + 7) with AM hct of 26.2.
   EGD yesterday demonstrated 1 cord grade one varices and portal
   gastropathy, but no signs of active bleeding. Plan per GI for [**Last Name (un) **]
   today with prep completed.  Given elevated cardiac biomarkers and
   abnormal ECG, transfusion threshold increased to hct<28.
   - Transfuse additional 2 units PRBC
   - Transfuse 1 unit FFP for dilutional effect.
   - Q6H hct and coags, transfuse for hct<28, plt<50, INR>1.5
   - Discontinue PPI and octreotide
   - Active T+S, crossmatch for 2 units
   - Discuss with GI timing for colonoscopy
   # Liver disease: Evidence of portal hypertension given varices on EGD
   suggestive of likely EtOH related cirrhosis.
   - GIB as above
   - Abdominal u/s with dopplers as above
   - f/u liver recs
   - Obtain OSH records, discuss with PCP
   # Altered mental status: Could be due to hepatic encephalopathy if
   patient does indeed have liver disease. Head CT unremarkable.
   - hold lactulose in the setting of GI bleed; likely ok to restart once
   [**Last Name (un) **] is performed and hemostasis is achieved.
   # Renal failure: Creatinine trending down today to 2.4 from peak of
   3.3.  Unknown baseline creatinine.
   - Trend creatinine and lytes
   - Volume rescucitation as above.
   - Renally dose meds, avoid nephrotoxins.
   # CV: STD anterolaterally with elevated TnT and MBI suggestive of
   demand ischemia in setting of hct of 10 at OSH.  Given GIB, hold of on
   ASA, plavix, BB. Given ARF, hold off on ACE-I. Given liver disease,
   hold off on statin.
   - TTE when stable
   - Obtain OSH CV records
   FEN: NPO for now, replete electrolytes
   PPx: SCDs, PPI
   Access: PIVx3
   Code: Full
   Comm: [**Name (NI) 27**] [**Name (NI) **] (significant other, HCP) [**Telephone/Fax (1) 7883**]
   Disposition: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-7-2**] 11:00 AM
   20 Gauge - [**2113-7-2**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   Hct 10--> 15 yesterday at OSH.
   9U PRBC transfused so far (2U OSH 7 here).
   Minimal bleeding per rectum + maroon stool yesterday, no significant
   bleeding now. Yesterday hct 21--> 26 after 7U
   ARF Cr 3.3--> 2.4
   95/49, 70, 95%
   6L + 24h
   Meds: PPI, octreotide infusion, ceftriaxone SBP prophylaxis
    Exam sig for [**Last Name (un) **] man comfortable in bed, no resp distress. Oriented to
   place and name, not year or month.
   64M EtOH abuse, severity of underlying liver disease unclear
 admitted
   here with BRBPR and Hct 16. Seemed lower though GI performed EGD -
   grade 1 varices, not source of the bleed. Being prepped for [**Last Name (un) **] today.
   Transferred with femoral line already in
 need adequate peripheral
   access and d/c fem line.
   Advanced EtOH cirrhosis.
   Awaiting [**Last Name (un) **] for lower GI bleed, completing prep.
   Need more info regarding cardiac status, liver failure workup
   Critically ill, 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 457**] [**Last Name (NamePattern1) **], MD
   on:[**2113-7-3**] 18:02 ------

2113-07-04 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD at OSH [**7-10**]: erosive gastropathy, erosive duodenopathy,
   non-bleeding grade 1 varices, ?portal gastropathy
   - Colonoscopy at OSH [**7-10**]: two polyps in transverse colon, two polyps
   in mid sigmoid, one polyp (25 mm; largest) in cecum. all polyps excised
   except cecum polyp which was only partially excised.
   - ECHO at OSH [**3-13**]: LVEF 35%
   - s/p CABG in [**2110**] (4 grafts), PPM w/ ICD placed post-op b/c of 3rd
   degree AVB
   - Cr 2.1 and rising at baseline
   - also has hx DM
   - hepatology: watching hct for now; did not scope
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-7-2**] 09:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-4**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 66 (65 - 88) bpm
   BP: 123/60(75) {95/46(40) - 136/76(83)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.3 kg (admission): 114.3 kg
             Total In:
                                                                  3,802 mL
                                                                     68 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                  1,061 mL
                                                                     68 mL
   Blood products:
                                                                  1,301 mL
   Total out:
                                                                  3,840 mL
                                                                    600 mL
   Urine:
                                                                  3,840 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -38 mL
                                                                   -532 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GEN:
   HEENT:
   LUNGS:
   HEART:
   ABD:
   EXTREM:
   NEURO:
   Labs / Radiology
   85 K/uL
   9.7 g/dL
   145 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.4 mEq/L
   52 mg/dL
   114 mEq/L
   148 mEq/L
   27.5 %
   5.9 K/uL
        [image002.jpg]
                             [**2113-7-2**]  06:33 AM
                             [**2113-7-2**]  11:38 AM
                             [**2113-7-2**]  05:44 PM
                             [**2113-7-3**]  05:44 AM
                             [**2113-7-3**]  01:53 PM
                             [**2113-7-3**]  05:14 PM
                             [**2113-7-3**]  11:30 PM
                             [**2113-7-4**]  04:45 AM
   WBC
   9.8
   8.1
   8.0
   5.9
   Hct
   21.3
   23.3
   21.6
   26.2
   28.6
   29.3
   28.4
   27.5
   Plt
   153
   111
   93
   85
   Cr
   3.3
   2.4
   1.7
   TropT
   0.27
   0.32
   Glucose
   162
   165
   145
   Other labs: PT / PTT / INR:14.7/26.7/1.3, CK / CKMB /
   Troponin-T:118/8/0.32, ALT / AST:[**12-22**], Alk Phos / T Bili:102/5.1,
   LDH:268 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   RUQ U/S:
   1. Diffusely increased hepatic echogenicity, consistent with fatty
   liver.
   Other, more serious forms of disease including cirrhosis and advanced
   fibrosis
   cannot be excluded.
   2. Patent portal vein. Dilated hepatic veins, suggesting right heart
   dysfunction.
   3. 1.2-cm echogenic focus within the gallbladder with no Doppler flow
   and no
   shadowing, likely a small sludge ball versus less likely a small polyp.
   Assessment and Plan
   64-year-old man with end-stage liver disease was transferred from [**Hospital 2653**]
   Hospital with GI bleed and altered mental status.
   # GI bleed: Received total of 11 units pRBCS including 2units at OSH
   and 4units FFP. EGD with varices (grade 1) and portal gastropathy. GI
   couldn
t complete [**Last Name (un) **] [**3-6**] poor prep.
   - transfuse 1 unit pRBCs
   - pantoprazole gtt
   - keep type & cross active
   - maintain good IV access
   - serial Hcts
   - repeat coags
   - colonoscopy urgently if becomes unstable
   # Possible liver disease: with INR 1.8 and  and bili 2.2. No evidence
   of ascites on exam. RUQ suggestive of cirrhosis vs fatty liver disease.
   - f/u liver recs
   - obtain OSH records before ordering liver w/u labs
   # GB polyp vs sludge: Unlikely to have contributed to
   hyperbilirubinemia given mostly indirect bili.
   -Consider MRCP/ERCP for further characterization of GB polyp when more
   medically stable.
   # Altered mental status: oriented x 1 with no asterixis. Could be due
   to hepatic encephalopathy if patient does indeed have liver disease.
   Head CT unremarkable.
   - hold lactulose in the setting of GI bleed; will start once bleeding
   resolves
   .
   # Hypovolemic Hypernatremia: Suspect renal losses however creatinine
   improving and hypernatremia continues.
   - Continue volume resuscitation and check urine lytes if does not
   improve
   .
   # Renal failure: concerning for hepatorenal syndrome. Improving with
   blood and hydration. Baseline unclear.
   - [**Name2 (NI) **] dose meds
   - trend renal labs
   .
   # ST depressions: in I, V2-V5. Baseline ECG not available. Trops have
   trended up over last day (0.08->0.32). Likely demand ischemia from
   blood loss. Per HCP, s/p valvular replacement surgery and ICD. TTE with
   LVEF 35% from OSH.
   - Would volume resuscitate and medically manage CAD for now as cannot
   have intervention with GIB anyway
   # FEN: NPO for now, replete electrolytes
   # Prophylaxis: pneumoboots, PPI
   # Access: peripherals, femoral line
   # Code: presumed full
   # Comm: [**Name (NI) 27**] [**Name (NI) **] (significant other, HCP) [**Telephone/Fax (1) 7883**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-7-2**] 11:00 AM
   20 Gauge - [**2113-7-2**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-07-05 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-4**]:
   - Hcts stable
   - GI will scope in am if hcts decrease and trops decrease ->holding off
   given stable hcts and risk of ACS (in setting of anemia patient had
   trop elevation with flat CKs and CK-MBs)
   - Paranoid and hallucinating at night. Started on CIWA as concern for
   withdrawal (told RNs he drinks heavily and takes ativan at night).
   Allergies:
   Codeine
   Nausea;
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-7-2**] 09:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2113-7-4**] 09:09 AM
   Lorazepam (Ativan) - [**2113-7-5**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-7-5**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 78 (61 - 88) bpm
   BP: 135/74(88) {94/48(60) - 152/77(93)} mmHg
   RR: 28 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.3 kg (admission): 114.3 kg
             Total In:
                                                                    876 mL
                                                                     67 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
                                                                    266 mL
   Total out:
                                                                  1,635 mL
                                                                    305 mL
   Urine:
                                                                  1,635 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -759 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), [**4-7**] holosystolic murmur at
   apex.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   85 K/uL
   10.1 g/dL
   169 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   38 mg/dL
   112 mEq/L
   146 mEq/L
   29.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2113-7-2**]  11:38 AM
                             [**2113-7-2**]  05:44 PM
                             [**2113-7-3**]  05:44 AM
                             [**2113-7-3**]  01:53 PM
                             [**2113-7-3**]  05:14 PM
                             [**2113-7-3**]  11:30 PM
                             [**2113-7-4**]  04:45 AM
                             [**2113-7-4**]  01:24 PM
                             [**2113-7-4**]  10:11 PM
                             [**2113-7-5**]  03:26 AM
   WBC
   8.1
   8.0
   5.9
   5.5
   Hct
   23.3
   21.6
   26.2
   28.6
   29.3
   28.4
   27.5
   28.5
   29.9
   29.2
   Plt
   111
   93
   85
   85
   Cr
   2.4
   1.7
   1.7
   TropT
   0.27
   0.32
   0.44
   0.53
   Glucose
   165
   145
   169
   Other labs: PT / PTT / INR:14.7/26.7/1.3, CK / CKMB /
   Troponin-T:49/4/0.53, ALT / AST:[**12-22**], Alk Phos / T Bili:102/5.1,
   LDH:268 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   64-year-old man with end-stage liver disease was transferred from [**Hospital 2653**]
   Hospital with GI bleed and altered mental status.
   # GI bleed: Received total of 12 units pRBCS (last yesterday PM)
   including 2units at OSH and 4units FFP. EGD with varices (grade 1) and
   portal gastropathy.
   - pantoprazole IV
   - keep type & cross active
   - maintain good IV access
   - serial Hcts
   - repeat coags
   - Hepatology stated they would only do scope if Hct and trops were
   decreasing today
   # Possible liver disease: with INR 1.8 and  and bili 2.2. No evidence
   of ascites on exam. RUQ suggestive of cirrhosis vs fatty liver disease.
   - f/u liver recs
   - obtain OSH records before ordering liver w/u labs
   - CTX for SBP PPx
   # GB polyp vs sludge: Unlikely to have contributed to
   hyperbilirubinemia given mostly indirect bili.
   -Consider MRCP/ERCP for further characterization of GB polyp when more
   medically stable.
   # Altered mental status: Patient was very agitated and paranoid early
   AM, but oriented x 3 with no asterixis. Could be due to hepatic
   encephalopathy if patient does indeed have liver disease or may also be
   pyschosis or withdrawal. Head CT unremarkable.
   - hold lactulose in the setting of GI bleed; will start once bleeding
   resolves
   - Started CIWA scale
   - consider haldol if symptoms persist
   .
   # Hypovolemic Hypernatremia: Suspect renal losses however creatinine
   improving and hypernatremia continues.
   - Continue volume resuscitation and check urine lytes if does not
   improve
   .
   # Renal failure: concerning for hepatorenal syndrome. Improving with
   blood and hydration. Baseline unclear.
   - [**Name2 (NI) **] dose meds
   - trend renal labs
   .
   # ST depressions: in I, V2-V5. Baseline ECG not available. Trops have
   trended up over last day (0.08->0.32). Likely demand ischemia from
   blood loss. Per HCP, s/p valvular replacement surgery and ICD. TTE with
   LVEF 35% from OSH.
   - Would volume resuscitate and medically manage CAD for now as cannot
   have intervention with GIB anyway
   - CKs not consistent with ACS and no chest pain
   # FEN: Clears for now, replete electrolytes
   # Prophylaxis: pneumoboots, PPI
   # Access: peripherals X3
   # Code: presumed full
   # Comm: [**Name (NI) 27**] [**Name (NI) **] (significant other, HCP) [**Telephone/Fax (1) 7883**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-7-2**] 08:00 PM
   18 Gauge - [**2113-7-5**] 12:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: